US05352784
Using the method of Example 1 Part B, methyl 2-[(ethoxycarbonyl)amino]-1-cycloheptene-1-carboxylate (59 g, 0.24 mole) was reacted with sodium methoxide to provide 30 g of methyl 2-amino-1-cycloheptene-1-carboxylate as an off white solid.

reactant | methyl 2-[(ethoxycarbonyl)amino]-1-cycloheptene-1-carboxylate | 0.24 mole, 59 g | C(C)OC(=O)NC1=C(CCCCC1)C(=O)OC | C12H19NO4
reactant | sodium methoxide | C[O-].[Na+]
product | methyl 2-amino-1-cycloheptene-1-carboxylate | 30 g | NC1=C(CCCCC1)C(=O)OC | C9H15NO2
